US04804776
5 ml of hexamethylphosphortriamide (HMPT) and 1 g of LiI.H2O are heated to 240° C. under a nitrogen atmosphere. 1.1 g of crude methyl 2-formyl-2-p-tert.butyl-benzyl-propionate (82%) in 1 ml of HMPT are added thereto, the mixture is stirred for 1 minute, poured on to ice and extracted with hexane. After washing with 2N HCl, with sodium bicarbonate solution and water the organic phase is dried over magnesium sulphate and the solvent is evaporated. 0.9 g of crude p-tert.butyl-α-methyl-hydrocinnamaldehyde is obtained. After bulb-tube distillation 500 mg of this aldehyde give 300 mg of pure material. The yield therefore amounts to 78.8%.

reactant | LiI.H2O | 1 g | [Li]I.O
reactant | methyl 2-formyl-2-p-tert.butyl-benzyl-propionate | 1.1 g | C(=O)C(C(=O)OC)(C)CC1=CC=C(C=C1)C(C)(C)C | C16H22O3
solvent | HMPT | 1 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | p-tert.butyl-α-methyl-hydrocinnamaldehyde | 0.9 g | C(C)(C)(C)C1=CC=C(CC(C=O)C)C=C1 | C14H20O
